US09085555B2
A. 2-Methyl-propane-2-sulfonic acid 1-(3-bromo-phenyl)-meth-(Z)-ylideneamide
To a solution of 3-bromo-benzaldehyde (1.27 mL, 10.8 mmol) in THF (50 mL) were added titanium(IV) ethoxide (0.786 mL, 21.6 mmol) and tert-butylsulfonamide (1.31 g, 10.8 mmol), and stirring was continued for 16 h at 65° C. After cooling to RT, volatiles were evaporated, and the residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 3:1) to afford the title compound. MS (LC/MS): 289 [M+H]+; tR (HPLC conditions f): 2.35 min.

reactant | 3-bromo-benzaldehyde | 10.8 mmol, 1.27 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | tert-butylsulfonamide | 10.8 mmol, 1.31 g | C(C)(C)(C)S(=O)(=O)N | C4H11NO2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | titanium(IV) ethoxide | 21.6 mmol, 0.786 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | 2-Methyl-propane-2-sulfonic acid 1-(3-bromo-phenyl)-meth-(Z)-ylideneamide | BrC=1C=C(C=CC1)\C=N/S(=O)(=O)C(C)(C)C | C11H14BrNO2S
